US08222416B2
A mixture of 1-benzenesulfonyl-5-fluoro-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (405 mg, 0.75 mmol) and tetrabutylammonium fluoride in tetrahydrofuran (1 M, 15 mL, 15 mmol) was stirred for 12 h at room temperature. The mixture was poured into brine (15 mL), extracted with ethyl acetate (2×50 mL), washed with a saturated aqueous ammonium chloride solution (3×20 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 5-fluoro-2-[(E)-1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (300 mg, 100%) as a solid: LC/MS m/e calcd for C21H21FN2O3S [M+H]+ 401.48, observed 401.2; 1H NMR (400 MHz, CDCl3) δ ppm 10.24 (br. s., 1H), 7.98 (br. s., 1H), 7.76-7.95 (m, 3H), 7.40-7.56 (m, 2H), 6.54 (s, 1H), 6.17 (d, J=10.1 Hz, 1H), 3.93-4.03 (m, 2H), 3.33-3.48 (m, 2H), 2.95-3.09 (m, 3H), 2.79-2.90 (m, 1H), 1.64-1.83 (m, 4H).

reactant | 1-benzenesulfonyl-5-fluoro-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 0.75 mmol, 405 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C | C27H25FN2O5S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 15 mmol, 1 M, 15 mL | O1CCCC1 | C4H8O
solvent | brine | 15 mL | [Cl-].[Na+].O
product | 5-fluoro-2-[(E)-1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 300 mg, 100% | FC=1C=C2C(=NC1)NC(=C2)\C(=C\C2CCOCC2)\C2=CC=C(C=C2)S(=O)(=O)C | C21H21FN2O3S
